US08980877B2
(−)-(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester (525 mg, 1.34 mmol) was hydrolyzed with 1 M NaOH following the experimental procedure described for Example 16 STEP B, to give (−)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid (435 mg).

reactant | (−)-(E)-3-[1′-Benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester | 1.34 mmol, 525 mg | COC(\C=C\C=1C=C2C(CC3(CN(CCC3)CC3=CC=CC=C3)OC2=CC1)=O)=O | C24H25NO4
reactant | NaOH | 1 M | [OH-].[Na+]
product | (−)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid | 435 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C23H23NO4
